US05063243
Ethyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate (Compound No. 1)
To a solution of 3,4-dihydroxybenzaldehyde (2.0 g, 14.5 mmol) in ethanol (10 ml) were added ethyl cyanoacetate (1.6 g, 14.5 mmol) and piperidine (3 drops) and the resulting reaction was allowed to proceed for 20 hours at room temperature. Water was then added to the reaction mixture, and the precipitated crystalline was filtered off and recrystallized from ethanol-water to yield the titled compound (2.3 g, 9.9 mmol). Alternatively, the reaction may be conducted in a benzene solution under refluxing conditions. Compound Nos. 2 to 6 were provided in a similar manner.

reactant | 3,4-dihydroxybenzaldehyde | 14.5 mmol, 2.0 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | ethyl cyanoacetate | 14.5 mmol, 1.6 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | Water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | Ethyl 2-cyano-3-(3,4-dihydroxyphenyl)-2-propenoate | 9.9 mmol, 2.3 g | C(#N)C(C(=O)OCC)=CC1=CC(=C(C=C1)O)O | C12H11NO4
